US04032525
In an analogous manner to that described in Example 6, from 1-[2-bromo-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine and 3-(2-chloro-ethyl)-2-oxazolidinone, there is obtained 3-[2-{4-[2-bromo-10,11 -dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-ethyl]-2-oxazolidinone having a melting point of 150°-152° C. The dihydrochloride, prepared in ethanol, melts at 175°-176° C.

reactant | 1-[2-bromo-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine | BrC1=CC2=C(OC3=C(C(C2)N2CCNCC2)C=CC=C3)C=C1 | C18H19BrN2O
reactant | 3-(2-chloro-ethyl)-2-oxazolidinone | ClCCN1C(OCC1)=O | C5H8ClNO2
product | 3-[2-{4-[2-bromo-10,11 -dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-ethyl]-2-oxazolidinone | BrC1=CC2=C(OC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC=C3)C=C1 | C23H26BrN3O3
